US04374829
In the manner described in example 26, one can condense 2-oxo-4-phenylbutyramide and L-alanyl-L-proline in the presence of sodium cyanoborohydride to yield N-(1-amino carbonyl-3-phenylpropyl)-L-alanyl-L-proline.

reactant | 2-oxo-4-phenylbutyramide | O=C(C(=O)N)CCC1=CC=CC=C1 | C10H11NO2
reactant | L-alanyl-L-proline | N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C8H14N2O3
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
product | N-(1-amino carbonyl-3-phenylpropyl)-L-alanyl-L-proline | NC(=O)C(CCC1=CC=CC=C1)N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C18H25N3O4
